US08580962B2
7-Methylidene-1-oxaspiro[3.5]nonane (Compound 85a)
N-(para-Toluenesulfonyl)dimethylsulfoximine (1.49 g, 6.01 mmol) and anhydrous DMSO (5 mL) were added to NaH 60% oil dispersion (0.22 g, 5.46 mmol) kept under stirring under anhydrous inert gas atmosphere in a flamed 3 necks flask. The mixture became greenish, and then changed to yellow. After stirring at 35° C. for 10 h, a solution of 4-methylidenecylohexanone (0.2 g, 1.82 mmol) in 5 mL of DMSO was added and the reaction mixture was stirred at 50° C. for 20 h. Afterwards, the reaction mixture was diluted with a saturated solution of NaCl and extracted with Et2O (3 times). After drying on Na2SO4 and evaporation to dryness, the residue from evaporation was purified by means of automated flash chromatography (Isolera®TM-Biotage; isocratic Petroleum Ether-EtOAc 9:1) to give 0.252 g of the title compound as a colorless oil. Yield: 27.8%.

reactant | N-(para-Toluenesulfonyl)dimethylsulfoximine | 6.01 mmol, 1.49 g | C1(=CC=C(C=C1)S(=O)(=O)N=S(=O)(C)C)C | C9H13NO3S2
reactant | NaH | [H-].[Na+]
reactant | 4-methylidenecylohexanone | 1.82 mmol, 0.2 g | C=C1CCC(CC1)=O | C7H10O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | NaCl | [Na+].[Cl-]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 7-Methylidene-1-oxaspiro[3.5]nonane | 0.252 g, Yield: 27.8% | C=C1CCC2(CCO2)CC1 | C9H14O
